US07652049B2
Borane-THF (1.0M solution in THF; 94 mL; 94 mmol) was added to a stirred solution of 2-iodo-5-(trifluoromethyl)benzoic acid (2.97 g; 9.4 mmol) in THF (300 mL) at 0° C. under N2. The reaction was heated at reflux for 90 min and then carefully quenched with 6N HCl until no further gas evolution. The reaction was diluted with H2O (250 mL) and extracted with EtOAc (3×250 mL). The combined extracts were washed with brine (300 mL), dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography (0-25% EtOAc/hexanes gradient) to afford [2-iodo-5-(trifluoromethyl)phenyl]methanol as a white solid. LCMS=285.0 (M−17)+. 1H NMR (CDCl3, 500 MHz): δ 7.97 (d, J=8.3 Hz, 1H), 7.79 (s, 1H), 7.28 (d, J=8.4 Hz, 1H), 4.75 (s, 2H).

reactant | Borane THF | 94 mmol, 1.0M, 94 mL | B.C1CCOC1
reactant | 2-iodo-5-(trifluoromethyl)benzoic acid | 9.4 mmol, 2.97 g | IC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4F3IO2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | [2-iodo-5-(trifluoromethyl)phenyl]methanol | IC1=C(C=C(C=C1)C(F)(F)F)CO | C8H6F3IO
